### PR TITLE
feat: add List/Array/Vector.sum_append_nat

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds a missing lemma about `List.sum`, and a grind annotation.

Noticed in @b-mehta's work.

### CODE REVIEW

File: src/Init/Data/Array/Lemmas.lean [hunk 1]
```diff
@@ -4413,10 +4413,17 @@ theorem getElem?_range {n : Nat} {i : Nat} : (Array.range n)[i]? = if i < n then
 
 -- Without further algebraic hypotheses, there's no useful `sum_push` lemma.
 
+@[simp, grind =]
```
Comment (b-mehta) [inline src/Init/Data/Array/Lemmas.lean:4416]: Is it clear that it's better to make this one `grind` over `List.sum_toArray`? Actually looking at the grind patterns, maybe both should be `grind`?

File: src/Init/Data/Array/Lemmas.lean [hunk 2]
```diff
@@ -4413,10 +4413,17 @@ theorem getElem?_range {n : Nat} {i : Nat} : (Array.range n)[i]? = if i < n then
...
 theorem sum_eq_sum_toList [Add α] [Zero α] {as : Array α} : as.toList.sum = as.sum := by
   cases as
   simp [Array.sum, List.sum]
 
+@[simp, grind =]
+theorem sum_append_nat {as₁ as₂ : Array Nat} : (as₁ ++ as₂).sum = as₁.sum + as₂.sum := by
+  cases as₁
+  cases as₂
+  simp [List.sum_append_nat]
```
Comment (b-mehta) [inline src/Init/Data/Array/Lemmas.lean:4425]:
```suggestion
  grind [cases Array]
```
if you'd like!

**Review by b-mehta — APPROVED** [review]
Thanks!

File: src/Init/Data/Array/Lemmas.lean (hunk 2 above)
Comment (kim-em) [reply src/Init/Data/Array/Lemmas.lean:4425]: We're still avoiding using `grind` in `Init`, sadly.

File: src/Init/Data/Array/Lemmas.lean (hunk 1 above)
Comment (kim-em) [reply src/Init/Data/Array/Lemmas.lean:4416]: List.sum_toArray is already marked as `grind =`.

Comment (b-mehta) [reply src/Init/Data/Array/Lemmas.lean:4416]: Ah, I was looking at outdated documentation, apologies.

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 9006af4a965c797e18000600b1893684eb0027b8 --onto 6ae31ea2d6e9d6d30c0e2bedac166377a15d07ef`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-30 04:38:25)
